US04511550
To a solution of phenethylamine (12.2 g) in pyridine (30 ml) was added trifluoroacetic anhydride (15 ml). The solution was stirred at room temperature for 12 hours and then distilled under reduced pressure to give N-trifluoroacetylphenethylamine (16.5 g, 75%) as a fraction distilling at 103°-104° C./4 mmHg.

reactant | phenethylamine | 12.2 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | trifluoroacetic anhydride | 15 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-trifluoroacetylphenethylamine | 16.5 g, 75% | FC(C(=O)NCCC1=CC=CC=C1)(F)F | C10H10F3NO
